US08703774B2
4B.1) 3-(2-Ethoxypyridin-3-yl)-3-hydroxy-2-oxo-1-(phenylsulfonyl)indoline-5-carbonitrile
2.50 g (7.79 mmol) of (−)-5-cyano-3-hydroxy-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one (prepared as in example 1.2 and racemate resolution into the corresponding enantiomers as described above) were dissolved in 30 ml of dimethylformamide, resulting in a yellow solution. After cooling to 0° C., 1.00 g (8.94 mmol) of potassium tert-butoxide was added in portions so that the temperature was kept between 0° C. and 5° C. The solution changed in color from yellow to dark yellow. It was stirred for 30 minutes and, at 0° C., 1.07 ml (8.20 mmol) of benzenesulfonyl chloride were slowly added dropwise. The solution became turbid and pale orange in color. It was stirred while cooling in ice for one hour. The progress of the reaction was followed by thin-layer chromatography (dichloromethane/methanol 9:1). For working up, the reaction mixture was added dropwise to ice-water. During this, a precipitate separated out and was, after stirring for 5 minutes, filtered off and washed with water. The title compound (2.65 g, 6.09 mmol, 78%) was dried in a vacuum drying oven at 40° C. and used for the next reaction without further purification.

reactant | (−)-5-cyano-3-hydroxy-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one | 7.79 mmol, 2.50 g | C(#N)C=1C=C2C(C(NC2=CC1)=O)(C=1C(=NC=CC1)OCC)O | C16H13N3O3
reactant | potassium tert-butoxide | 8.94 mmol, 1.00 g | CC(C)([O-])C.[K+]
reactant | benzenesulfonyl chloride | 8.20 mmol, 1.07 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | dichloromethane methanol | ClCCl.CO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(2-Ethoxypyridin-3-yl)-3-hydroxy-2-oxo-1-(phenylsulfonyl)indoline-5-carbonitrile | 6.09 mmol, 2.65 g, 78% | C(C)OC1=NC=CC=C1C1(C(N(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=CC=C1)=O)O | C22H17N3O5S
